US09428470B2
I) 2,2′-(3-(3-((4-Carbamimidamidobenzoyl)oxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid
2,2′-(3-(3-((4-Carbamimidamidobenzoyl)oxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid trifluoroacetate (40.9 mg) was suspended in water (1 mL), and an aqueous solution prepared from ammonium acetate (17.06 mg) and water (1 mL) was added to the suspension at room temperature. The obtained mixture was stirred at room temperature for 1 hour, and then, the solid was collected by filtration and washed with water and acetone to obtain the title compound (28.4 mg).

reactant | 2,2′-(3-(3-((4-Carbamimidamidobenzoyl)oxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid trifluoroacetate | 40.9 mg | FC(C(=O)O)(F)F.N(C(=N)N)C1=CC=C(C(=O)OC=2C=C(C=CC2)C2=NOC(C2)(CC(=O)O)CC(=O)O)C=C1
reactant | ammonium acetate | 17.06 mg | C(C)(=O)[O-].[NH4+]
solvent | water | 1 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 2,2′-(3-(3-((4-Carbamimidamidobenzoyl)oxy)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid | 28.4 mg | N(C(=N)N)C1=CC=C(C(=O)OC=2C=C(C=CC2)C2=NOC(C2)(CC(=O)O)CC(=O)O)C=C1 | C21H20N4O7
